US08114872B2
6-Chloro-4-iodo-pyridin-3-ol
Treat a solution of 2-chloro-4-iodo-5-methoxymethoxy-pyridine (8.1 g, 27 mmol) in THF (40 mL) with 3 N HCl (61 mL). Heat the resulting mixture to 60° C. for 3 h. Cool the mixture to RT and adjust the pH to 7 by the slow addition of saturated aqueous sodium bicarbonate solution. Extract the mixture with three portions of ethyl acetate. Combine the organic extracts and dry over sodium sulfate, filter, and concentrate in vacuo to give the title compound 6.8 g (98%) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ 11.04 (s, 1H), 7.81-7.87 (m, 2H).

reactant | 2-chloro-4-iodo-5-methoxymethoxy-pyridine | 27 mmol, 8.1 g | ClC1=NC=C(C(=C1)I)OCOC | C7H7ClINO2
reactant | HCl | 3 N, 61 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-Chloro-4-iodo-pyridin-3-ol | 6.8 g, 98% | ClC1=CC(=C(C=N1)O)I | C5H3ClINO
